US07923568B2
To a solution of (8R,10aS)-4-chloro-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d]imidazol-7(8H)-one (58 mg, 0.16 mmol) in DMF (5.8 mL) were added 20% Pd(OH)2 on carbon (27 mg) and 5% palladium on calcium carbonate (29 mg) and the mixture was hydrogenated at atmospheric pressure. After 16 hours, additional 20% Pd(OH)2 on carbon (12 mg) and 5% palladium on calcium carbonate (12 mg) were added. After another 3.5 hours, additional 20% Pd(OH)2 on carbon (5 mg) and 5% palladium on calcium carbonate (5 mg) were added. After 66 hours more, the mixture was filtered through a pad of Celite®, washing thoroughly with EtOAc. The filtrate was partitioned between EtOAc and water which had been acidified with a small amount of 1N hydrochloric acid. The aqueous layer was neutralized with 5% aqueous sodium bicarbonate and was then thoroughly extracted with EtOAc. After drying over MgSO4, the solvent was removed under reduced pressure to give a gum. Chromatography on silica gel (elution with 5% methanol in dichloromethane) gave a yellow oil which was lyophilized from benzene containing a small amount of methanol to provide (8R,10aS)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d]imidazol-7(8H)-one as a yellow solid.

reactant | (8R,10aS)-4-chloro-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d]imidazol-7(8H)-one | 0.16 mmol, 58 mg | ClC1=CC=2C=3[C@@]4(CC2C=2N=CNC21)CC[C@@H](C(C3C(F)(F)F)=O)C4 | C17H12ClF3N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
solvent | DMF | 5.8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OH)2 on carbon | 27 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium on calcium carbonate | 29 mg | [Pd] | Pd
catalyst | Pd(OH)2 on carbon | 12 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium on calcium carbonate | 12 mg | [Pd] | Pd
catalyst | Pd(OH)2 on carbon | 5 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium on calcium carbonate | 5 mg | [Pd] | Pd
product | (8R,10aS)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d]imidazol-7(8H)-one | FC(C=1C([C@@H]2CC[C@]3(C1C=1C=CC4=C(N=CN4)C1C3)C2)=O)(F)F | C17H13F3N2O
